US05286728
2.34 g of 1-[2-(4-chlorophenyl)ethyl]piperazine and 1.57 g of Hunig base (=N-ethyldiisopropylamine) are introduced into 40 ml of tetrahydrofuran. 2.36 g of 4-chloroacetylaminobenzoic acid chloride [see J. Med. Chem. 28 (1985) 910] are added thereto in small portions. After 30 minutes at 40°, the solution is concentrated by evaporation. The residue is chromatographed over silica gel, and recrystallisation is carried out from acetone, yielding 1-(4-chloroacetylaminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine having a melting point of 146°-147°.

reactant | 1-[2-(4-chlorophenyl)ethyl]piperazine | 2.34 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
reactant | Hunig base | 1.57 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloroacetylaminobenzoic acid chloride | 2.36 g | ClCC(=O)NC1=CC=C(C(=O)Cl)C=C1 | C9H7Cl2NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(4-chloroacetylaminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | ClCC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C21H23Cl2N3O2
